US07709500B2
Step 1: 2-{4-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-3-hydroxybutyl}-1H-isoindole-1,3(2H)-dione
A mixture of 4-(3,4-dichlorophenoxy)piperidine (WO 0058305, WO 0177101) (4.40 g) and 2-(2-oxiran-2-ylethyl)-1H-isoindole-1,3(2H)-dione (J. Med. Chem. 1979, 22(6), 631-9. 5.00 g) in ethanol (50 ml) was stirred at 60° C. for 12 h. The mixture was cooled down and left overnight. The formed crystals were collected by filtration, washed with cold ethanol and dried under vacuum to afford the sub-title compound as a white solid (3.0 g).

reactant | 4-(3,4-dichlorophenoxy)piperidine | 4.40 g | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
reactant | 2-(2-oxiran-2-ylethyl)-1H-isoindole-1,3(2H)-dione | 5.00 g | O1C(C1)CCN1C(C2=CC=CC=C2C1=O)=O | C12H11NO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-{4-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-3-hydroxybutyl}-1H-isoindole-1,3(2H)-dione | 3.0 g | ClC=1C=C(OC2CCN(CC2)CC(CCN2C(C3=CC=CC=C3C2=O)=O)O)C=CC1Cl | C23H24Cl2N2O4
